US07420083B2
Synthesis of 2-{[2-(Trifluoromethyl)benzoyl]amino}-4-{3-[({(1E)-[4-(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}benzoic acid
The title compound (0.404 g, 70%) was prepared as a white solid from 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester and 4-trifluoromethyl-benzaldehyde oxime using a procedure similar to step 1 of example 6. mp=147.2-147.9° C.; mass spectrum −ES, (M−H) m/z 553. 1H NMR (400 MHz, DMSO-d6); δ 13.40 (bs, 1H), 11.90 (bs, 1H), 8.38 (s, 1H), 8.26 (d, 1H), 7.97 (d, 1H), 7.86 (d, 1H), 7.77 (m, 7H), 6.81 (dd, 1H), 4.33 (t, 2H), 4.18 (t, 2H), 2.18 (m, 2H). Elemental analysis: Calcd. for C26H20F6N2O5: C, 56.32; H, 3.64; N, 5.05, Found: C, 55.83; H, 3.27; N, 4.88.

reactant | 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C19H17BrF3NO4
reactant | 4-trifluoromethyl-benzaldehyde oxime | FC(C1=CC=C(C=NO)C=C1)(F)F | C8H6F3NO
product | 2-{[2-(Trifluoromethyl)benzoyl]amino}-4-{3-[({(1E)-[4-(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}benzoic acid | 0.404 g, 70% | FC(C1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)OCCCO/N=C/C2=CC=C(C=C2)C(F)(F)F)C=CC=C1)(F)F | C26H20F6N2O5
